US06162818
7-Methyl-6-(2-imidazolinylamino)indole
A solution of 6-isothiocyanato-7-methylindole (0.85 g, 4.52 mmol) in 25 mL of toluene is added to a solution of ethylenediamine (1.06 mL, 15.8 mmol) in 50 mL of toluene. The milky white mixture is stirred for 30 minutes as the desired product precipitates. The reaction is filtered to yield 1.1 g of 6-[-N'-(2-aminoethyl)thioureido]-7-methylindole as a flaky white solid (99% yield).

reactant | 6-isothiocyanato-7-methylindole | 4.52 mmol, 0.85 g | N(=C=S)C1=CC=C2C=CNC2=C1C | C10H8N2S
reactant | ethylenediamine | 15.8 mmol, 1.06 mL | C(CN)N | C2H8N2
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Methyl-6-(2-imidazolinylamino)indole | CC=1C(=CC=C2C=CNC12)NN1C=NCC1 | C12H14N4
